US05744426
3-(4-Chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole
A solution of 162 g (4.0 mol) of sodium hydroxide in l 1 of water was addedto a solution of 169.1 g (0,811 mol) of 3-(4-chlorophenyl)-1-methyl-2-pyrazolin-5-one in 2.5 1 of dioxane. Chlorodifluoromethane (about 175 g) was passed in over the course of 5 hours at 60°-65° C., after which the reaction solution was stirred into 1.5 1 of water. Extraction three times with methyl tertbutyl ether, followed by drying of the organic phase and removal of the solvent in vacuo, gave the crude product, which was purified further by chromatography on silica gel (hexane/ethyl acetate 7:3). Yield: 142.9 g; 1H-NMR (400 MHz, in CDCl3): δ [ppm]=7.60 (d,2H), 7.28 (d,2H), 6.54 (t,1H), 6.08 (s,1H), 3.69 (s,3H).

reactant | sodium hydroxide | 4.0 mol, 162 g | [OH-].[Na+]
reactant | 3-(4-chlorophenyl)-1-methyl-2-pyrazolin-5-one | 0,811 mol, 169.1 g | ClC1=CC=C(C=C1)C1=NN(C(C1)=O)C | C10H9ClN2O
reactant | Chlorodifluoromethane | about 175 g | ClC(F)F | CHClF2
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-Chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC1=CC=C(C=C1)C1=NN(C(=C1)OC(F)F)C | C11H9ClF2N2O
